US06911543B2
Furo[2,3-c]pyridin-5-ylmethanol (7.70 g, 51.63 mmol) is dissolved in pyridine (45 mL), treated with acetic anhydride (14.36 mL, 154.9 mmol) and stirred for 18 h at rt. The pyridine is removed in vaeuo and the resulting residue dissolved in EtOAc (200 mL), washed with 50% saturated sodium bicarbonate (4×90 mL), dried over MgSO4 and concentrated in vacuo to afford 9.32 g (94%) of furo[2,3-c]pyridin-5-ylmethyl acetate as a yellow oil. MS (EI) m/z: 191 (M+), 277, 148, 119, 118, 86, 84, 77, 63, 51, 50.

reactant | Furo[2,3-c]pyridin-5-ylmethanol | 51.63 mmol, 7.70 g | O1C=CC=2C1=CN=C(C2)CO | C8H7NO2
reactant | acetic anhydride | 154.9 mmol, 14.36 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
product | furo[2,3-c]pyridin-5-ylmethyl acetate | 9.32 g, 94% | C(C)(=O)OCC=1C=C2C(=CN1)OC=C2 | C10H9NO3
